US06653330B2
4-[trans-5-[[(1R,2R)-2-(2,4-Difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]-N-[(1-naphthyl)methyl]benzamide (Exemplification Compound Number 21-1)
In the same manner as that described in Example 3(4), a reaction was carried out using commercially available 1-naphthylmethylamine (187 mg, 1.2 mmol), trimethylaluminium (1.1 ml, 1.07M n-hexane solution, 1.2 mmol) and methyl 4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]benzoate (150 mg, 0.30 mmol), obtained in Example 12(1), and the reaction mixture was treated using a similar procedure to that described in Example 3(4) to afford the title compound (170 mg, yield 91%) as a white solid which was recrystallized from dichloromethane-hexane to give white powdery crystals.

reactant | 1-naphthylmethylamine | 1.2 mmol, 187 mg | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
reactant | trimethylaluminium | 1.2 mmol, 1.07M, 1.1 ml | C[Al](C)C
reactant | methyl 4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]benzoate | 0.30 mmol, 150 mg | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)S[C@H]1CO[C@@H](OC1)C1=CC=C(C(=O)OC)C=C1)(CN1N=CN=C1)O | C24H25F2N3O5S
product | 4-[trans-5-[[(1R,2R)-2-(2,4-Difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]-N-[(1-naphthyl)methyl]benzamide | 170 mg, yield 91% | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)S[C@H]1CO[C@@H](OC1)C1=CC=C(C(=O)NCC2=CC=CC3=CC=CC=C23)C=C1)(CN1N=CN=C1)O | C34H32F2N4O4S
